US08497371B2
2-(4-{[(2,3-dichlorophenyl)amino]carbonothioyl}-1-piperazinyl)-8-ethyl-5-oxo-5,8-dihydropyrido[2,3-d]pyrimidine-6-carboxylic acid (15)
Pipemidic acid (51 mg, 0.168 mmol) and 2,3-dichlorophenyl isothiocyanate (20 μL, 0.141 mmol) were used. Purification on silica yielded compound 15 in table 1, below (15.5 mg, 22%). 1H NMR (300 MHz, DMSO) δ 9.03 (s, 1H), 8.78 (s, 1H), 7.53 (d, J=7.43 Hz, 1H), 7.41-7.26 (m, 2H), 4.51-3.90 (m, 10H), 1.43-1.27 (m, 3H) ppm.

reactant | Pipemidic acid | 0.168 mmol, 51 mg | CCN1C=C(C(=O)C2=C1N=C(N=C2)N3CCNCC3)C(=O)O | C14H17N5O3
reactant | 2,3-dichlorophenyl isothiocyanate | 0.141 mmol, 20 μL | ClC1=C(C=CC=C1Cl)N=C=S | C7H3Cl2NS
product | 2-(4-{[(2,3-dichlorophenyl)amino]carbonothioyl}-1-piperazinyl)-8-ethyl-5-oxo-5,8-dihydropyrido[2,3-d]pyrimidine-6-carboxylic acid | ClC1=C(C=CC=C1Cl)NC(=S)N1CCN(CC1)C=1N=CC2=C(N1)N(C=C(C2=O)C(=O)O)CC | C21H20Cl2N6O3S
